US07358268B2
(iii) 2-(4-Chlorophenyl)-1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazole-4-carboxylic acid
480 mg (1.1 mg) of 2-(4-Chloro-phenyl)-1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazole-4-carboxylic acid ethyl ester was dissolved in 10 ml of dioxan and 10 ml of 2 N aqueous NaOH was added. The solution was stirred at 60° C. for 3 h. The solution was poured into water and the pH was adjusted to 3 by the addition of 2 N aqueous HCl. The precipitated product was filtered off and dried. Yield: 258 mg; MS (LCMS-ES+): m/e=420.

reactant | 2-(4-Chloro-phenyl)-1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazole-4-carboxylic acid ethyl ester | 480 mg | C(C)OC(=O)C=1N=C(N(C1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C1=CC=C(C=C1)Cl | C20H15Cl2N3O3S
reactant | NaOH | 2 N, 10 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 2-(4-Chlorophenyl)-1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-imidazole-4-carboxylic acid | ClC1=CC=C(C=C1)C=1N(C=C(N1)C(=O)O)CC1=NOC(=C1)C=1SC(=CC1)Cl | C18H11Cl2N3O3S
